US04493843
A mixture of 4-(n-hexadecanamido)-3-methylbenzoic acid (6.3 g) and potassium tert-butoxide (25 g) was treated in a similar manner to that described hereinbefore in Example 1 to give 2-(n-pentadecyl)indole-5-carboxylic acid (3.6 g), in the form of a white solid, m.p. 110°-112° C.

reactant | 4-(n-hexadecanamido)-3-methylbenzoic acid | 6.3 g | C(CCCCCCCCCCCCCCC)(=O)NC1=C(C=C(C(=O)O)C=C1)C | C24H39NO3
reactant | potassium tert-butoxide | 25 g | CC(C)([O-])C.[K+]
product | 2-(n-pentadecyl)indole-5-carboxylic acid | 3.6 g | C(CCCCCCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C24H37NO2
